US06265421B1
a) 3-(4-Chlorobenzyl)-5,7-dihydroxy-4-methyl-2H-1-benzopyran-2-one
A solution of phloroglucinol (1.57 g) and ethyl 2-(4-chlorobenzyl)acetoacetate (3.18 g) in ethanol (25 ml) was treated with dry HCl at 0° C. for 1.5 hours and the solution was kept at that temperature overnight. Solvent was evaporated and the precipitate triturated with water. Yield 3.87 g (98%). Melting point 270-278° C.

reactant | phloroglucinol | 1.57 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | ethyl 2-(4-chlorobenzyl)acetoacetate | 3.18 g | ClC1=CC=C(CC(C(=O)OCC)C(=O)C)C=C1 | C13H15ClO3
reactant | HCl | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-(4-Chlorobenzyl)-5,7-dihydroxy-4-methyl-2H-1-benzopyran-2-one | ClC1=CC=C(CC=2C(OC3=C(C2C)C(=CC(=C3)O)O)=O)C=C1 | C17H13ClO4
